US08309581B2
1-Cyclohexylmethyl-2-(2-cyclopentylmethoxy-pyridin-3-yl)-5,6-difluoro-1H-benzoimidazole
To a suspension of sodium hydride (20 mg, 0.51 mmol, 60%) in dry N,N-dimethylformamide (5 ml) at 25° C. was slowly added a solution of cyclopentyl-methanol (30 mg, 0.30 mmol; CAS Reg. No. 3637-61-4) in dry N,N-dimethylformamide (5 ml) and the suspension was stirred for 0.5 h. A solution of 2-(2-chloro-pyridin-3-yl)-1-cyclohexylmethyl-5,6-difluoro-1H-benzoimidazole (90 mg, 0.25 mmol) in N,N-dimethylformamide (5 ml) was then added drop wise to the above solution and further stirred for 16 h at 25° C. The reaction mixture was quenched with saturated aqueous solution of ammonium chloride. The solvents were removed under reduced pressure. The crude material dissolved in ethyl acetate, washed with water and brine, dried over sodium sulfate, filtered, and evaporated under reduced pressure. The crude product was purified by column chromatography over silica gel (20-30% ethyl acetate/n-hexane) to afford the title compound as a colorless solid (54%). MS (Turbo Spray): m/z=426.3 (M+H).

reactant | sodium hydride | 0.51 mmol, 20 mg | [H-].[Na+]
reactant | cyclopentyl-methanol | C1(CCCC1)CO | C6H12O
reactant | 2-(2-chloro-pyridin-3-yl)-1-cyclohexylmethyl-5,6-difluoro-1H-benzoimidazole | 0.25 mmol, 90 mg | ClC1=NC=CC=C1C1=NC2=C(N1CC1CCCCC1)C=C(C(=C2)F)F | C19H18ClF2N3
solvent | N,N-dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | 1-Cyclohexylmethyl-2-(2-cyclopentylmethoxy-pyridin-3-yl)-5,6-difluoro-1H-benzoimidazole | 54% | C1(CCCCC1)CN1C(=NC2=C1C=C(C(=C2)F)F)C=2C(=NC=CC2)OCC2CCCC2 | C25H29F2N3O
